US07504513B2
5,6-Dimethoxy-1-[4-phenyl-5-(1H-tetrazol-5-yl)-thiazol-2-yl]-1H-benzoimidazole
A mixture of 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carbonitrile (261 mg, 0.72 mmol), sodium azide (220 mg) and ammonium chloride (250 mg) in N-methylpyrrolidone (2.5 ml) was stirred at 110° C. for 1 hr. Water was added and the mixture was extracted with methylene chloride. After removal of solvent, the residue was purified by HPLC to yield the product (138.1 mg, yield 47%). 1H-NMR (DMSO-D6) 8.78 (s, 1H); 8.21-8.29 (m, 2H); 7.86 (s, 1H); 7.36-7.50 (m, 3H); 3.90 (s, 3H); 3.88 (s, 3H). MS M/z 406 (M+1).

reactant | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carbonitrile | 0.72 mmol, 261 mg | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=CC=C2)C#N)C=C1OC | C19H14N4O2S
reactant | sodium azide | 220 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 250 mg | [Cl-].[NH4+]
reactant | Water | O | H2O
solvent | N-methylpyrrolidone | 2.5 ml | CN1C(CCC1)=O | C5H9NO
product | 5,6-Dimethoxy-1-[4-phenyl-5-(1H-tetrazol-5-yl)-thiazol-2-yl]-1H-benzoimidazole | 138.1 mg, yield 47% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=CC=C2)C2=NN=NN2)C=C1OC | C19H15N7O2S
